US06319946B1
(3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-3-amino-1-benzyl-2-hydroxypropyl]carbamate
A suspension of 4.0 g (8.5 mmol) of 3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-1-benzyl-3-[(benzyloxy)carbonyl]amino-2-hydroxypropyl)carbamate and 0.5 g of 5% Pd(C) in 200 mL of MeOH was subjected to hydrogenation at 45 psi. After 3.5 hours the reaction vessel was purged with nitrogen, catalyst was removed by filtration through celite and the filtrate was concentrated in vacuo to afford 2.72 g (95%) of the desired product as a white solid. NMR (DMSO-d6): 7.23-7.04 (m, 6H), 5.45 (d, 1H), 4.91-4.75 (m, 2H), 3.79 (dd, 1H), 3.68 (t, 1H), 3.53 (m, 3H), 3.21 (m, 2H), 3.01 (dd, 1H), 2.74 (q, 1H), 2.57 (dd, 1H), 2.41 (m, 1H), 1.60-1.28 (m, 3H), 1.22 (dd, 1H). MS(ESI): 337(M+H).

reactant | hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-1-benzyl-3-[(benzyloxy)carbonyl]amino-2-hydroxypropyl)carbamate | C(C1=CC=CC=C1)[C@@H]([C@@H](CNC(=O)OCC1=CC=CC=C1)O)NC(OC1COC2OCCC21)=O | C25H30N2O7
solvent | MeOH | 200 mL | CO | CH4O
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-3-amino-1-benzyl-2-hydroxypropyl]carbamate | 2.72 g, 95% | NC[C@H]([C@H](CC1=CC=CC=C1)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O)O | C17H24N2O5
